US09233956B2
Step F: 2-Propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}carbamate
Following a procedure analogous to the procedure described in Intermediate 6 using 2-propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-2,4-difluorophenyl}carbamate (4.0 g, 10.88 mmol), NBS (2.033 g, 11.42 mmol) and 4-morpholinecarbothioamide (1.749 g, 11.97 mmol) the title compound of Step F was obtained as a yellow solid (5.11 g, 95% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.56 (br. s., 1H), 8.41-8.51 (m, 1H), 7.83 (d, J=5.9 Hz, 1H), 7.27 (t, J=8.7 Hz, 1H), 6.76 (d, J=5.3 Hz, 1H), 5.88-6.03 (m, 1H), 5.34 (d, J=17.2 Hz, 1H), 5.22 (d, J=10.1 Hz, 1H), 4.61 (d, J=5.1 Hz, 2H), 3.70-3.76 (m, 4H), 3.57 (d, J=4.4 Hz, 4H). MS (ESI): 493 [M+H]+.

reactant | 2-propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-2,4-difluorophenyl}carbamate | 10.88 mmol, 4.0 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1F)NC(OCC=C)=O)F | C16H12ClF2N3O3
reactant | NBS | 11.42 mmol, 2.033 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 4-morpholinecarbothioamide | 11.97 mmol, 1.749 g | N1(CCOCC1)C(N)=S | C5H10N2OS
product | 2-Propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}carbamate | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1F)NC(OCC=C)=O)F | C21H18ClF2N5O3S
